US08389511B2
tert-Butyl (3R)-3-[{[1-(2-aminoethyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}-(isopropyl)amino]piperidine-1-carboxylate
To tert-butyl (3R)-3-[{[1-(2-{[(benzyloxy)carbonyl]amino}ethyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (800 mg) were added 10% Pd/C (400 mg) and methanol (30 ml), and the mixture was stirred at room temperature under hydrogen atmosphere for 2 hours. After the reaction was complete, the mixture was filtered and concentrated. The obtained residue (600 mg) was used in the subsequent reaction without further treatment.

reactant | tert-butyl (3R)-3-[{[1-(2-{[(benzyloxy)carbonyl]amino}ethyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 800 mg | C(C1=CC=CC=C1)OC(=O)NCCN1C(C(C2=CC=C(C=C12)C(=O)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C)C)(C)C)=O | C34H46N4O6
catalyst | Pd/C | 400 mg | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | tert-Butyl (3R)-3-[{[1-(2-aminoethyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl]carbonyl}-(isopropyl)amino]piperidine-1-carboxylate | NCCN1C(C(C2=CC=C(C=C12)C(=O)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(C)C)(C)C)=O | C26H40N4O4
